US05122601
The procedure of Hough, Mufti, and Khan, Carbohydrate Res., Vol. 21, pp. 144-147 (1972), is modified as shown below. To a solution of 15 g of sucrose (43.82 mmol) in 225 ml of pyridine, a solution of 54.95 g of trityl chloride (197.1 mmol, 4.5 equiv.) in 50 ml of pyridine is added dropwise over a period of 30 minutes. The reaction mixture is then stirred at room temperature for 4 days. After 4 days, the solution is concentrated to a brown syrup, which is dissolved in methylene chloride. This solution is further washed successively with 1 M hydrochloric acid, saturated sodium bicarbonate solution, water, and brine and then dried over anhydrous sodium sulfate. The methylene chloride solution is then concentrated in vacuo and the residue applied on a column of silica gel packed in methylene chloride:acetone (4:1) and eluted with that solvent. The 1',6,6'-tri-O-tritylsucrose is obtained (28.59 g) in 58.8% yield as an off-white solid with a melting point of 127° to 130° C.

reactant | sucrose | 43.82 mmol, 15 g | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | trityl chloride | 197.1 mmol, 54.95 g, 4.5 equiv. | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | pyridine | 225 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 1',6,6'-tri-O-tritylsucrose | 58.8% yield | C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3)OC[C@@H]4[C@@H]([C@@H]([C@H](C(O4)O[C@]5([C@H]([C@@H]([C@H](O5)COC(C6=CC=CC=C6)(C7=CC=CC=C7)C8=CC=CC=C8)O)O)COC(C9=CC=CC=C9)(C1=CC=CC=C1)C1=CC=CC=C1)O)O)O | C69H64O11
